US08003651B2
tert-Butyl 2-(4-chloro-3-fluorobenzyl)-3-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropylcarbamate was treated with HCl (4M in dioxane, 2 mL) in DCM (5 mL) for 6 hours to provide 2-(aminomethyl)-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (50 mg, 99%). MS (APCI+) [M+H] +446.

reactant | tert-Butyl 2-(4-chloro-3-fluorobenzyl)-3-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropylcarbamate | ClC1=C(C=C(CC(CNC(OC(C)(C)C)=O)C(=O)N2C[C@@H](N(CC2)C=2C3=C(N=CN2)CC[C@H]3C)C)C=C1)F | C28H37ClFN5O3
reactant | HCl | 4M, 2 mL | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(aminomethyl)-3-(4-chloro-3-fluorophenyl)-1-((S)-3-methyl-4-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 50 mg, 99% | Cl.Cl.NCC(C(=O)N1C[C@@H](N(CC1)C=1C2=C(N=CN1)CC[C@H]2C)C)CC2=CC(=C(C=C2)Cl)F | InChI=1S/C23H29ClFN5O.2ClH/c1-14-3-6-20-21(14)22(28-13-27-20)30-8-7-29(12-15(30)2)23(31)17(11-26)9-16-4-5-18(24)19(25)10-16;;/h4-5,10,13-15,17H,3,6-9,11-12,26H2,1-2H3;2*1H/t14-,15+,17?;;/m1../s1
